US08314087B2
Methyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate.
A solution of methyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate (2000 mg, 8.88 mmol), 1H-imidazole (1.51 mg, 22.2 mmol), and chloro-tert-butyldimethylsilane (1405 mg, 9.32 mmol) in DMF (10 mL) was stirred overnight at 23° C. The mixture was partitioned between CH2Cl2 and 5% NaHCO3. The organic was dried over MgSO4 and reduced to an oil under reduced pressure from toluene. MS (ESI pos. ion) m/z (MH+): 340. Calc'd exact mass for C17H29NO4Si: 339.

reactant | methyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate | 8.88 mmol, 2000 mg | OCC(C)(C)N1C=C(C=CC1=O)C(=O)OC | C11H15NO4
reactant | 1H-imidazole | 22.2 mmol, 1.51 mg | N1C=NC=C1 | C3H4N2
reactant | chloro-tert-butyldimethylsilane | 9.32 mmol, 1405 mg | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=CC1=O)C(=O)OC | C17H29NO4Si
